US04241079
To a mixture of 3-imino-(o-chlorophenyl)methyl-4-(3-carbomethoxythioureido)benzophenone (4.52 g.; 0.01 mol) in 1,2-dimethoxyethane (50 ml.) there is added 57% sodium hydride (0.42 g.; 0.01 mol) (oil dispersion). The mixture is stirred at room temperature for one hour and there is then added dimethyl sulfate (1.26 g.; 0.01 mol). The mixture is stirred at room temperature for one hour and is poured into an excess of water. The suspension is filtered and the filter cake dried to afford 3-imino-(o-chlorophenyl)methyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone.

reactant | 3-imino-(o-chlorophenyl)methyl-4-(3-carbomethoxythioureido)benzophenone | 0.01 mol, 4.52 g | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(=S)NC(=O)OC)CC1=C(C=CC=C1)Cl | C23H20ClN3O3S
reactant | sodium hydride | 0.01 mol, 0.42 g | [H-].[Na+]
reactant | dimethyl sulfate | 0.01 mol, 1.26 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 3-imino-(o-chlorophenyl)methyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(SC)=NC(=O)OC)CC1=C(C=CC=C1)Cl | C24H22ClN3O3S
